US04344941
250 mg of 17β-acetoxy-1α-methyl-17α-n-propyl-5α-androstan-3β-ol is allowed to stand at room temperature for 48 hours in 1 ml of pyridine with 0.5 ml of butyric anhydride. The mixture is diluted with ether, washed repeatedly with water, dried, and evaporated. The residue is chromatographed on silica gel, yielding 270 mg of 17β-acetoxy-3β-butyryloxy-1α-methyl-17α-n-propyl-5α-androstane as an oil.

reactant | 17β-acetoxy-1α-methyl-17α-n-propyl-5α-androstan-3β-ol | 250 mg | C(C)(=O)O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)C)O)CCC | C25H42O3
reactant | butyric anhydride | 0.5 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 17β-acetoxy-3β-butyryloxy-1α-methyl-17α-n-propyl-5α-androstane | 270 mg | C(C)(=O)O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)C)OC(CCC)=O)CCC | C29H48O4
